US04073898
Preparation of 2-(2,3-dihydroxy propylsulfinyl) ethylurea
There is slowly added to an aqueous solution of potassium cyanate (5 × 10-3 mole) a solution of 5 × 10-3 mole of 2-(2,3-dihydroxy propylsulfinyl) ethylamine hydrochloride in water. This mixture is agitated for 1 hour at a temperature lower than -5° C. The mixture is then concentrated under reduced pressure and the resulting residue is taken up in methanol and filtered. The filtrate is evaporated and the residue is crystallized in a mixture of isopropanol and acetonitrile, yielding white crystals having a melting point of 102° C.

reactant | potassium cyanate | 5 × 10-3 mole | [O-]C#N.[K+]
reactant | 2-(2,3-dihydroxy propylsulfinyl) ethylamine hydrochloride | 5 × 10-3 mole | Cl.OC(CS(=O)CCN)CO
solvent | water | O | H2O
product | 2-(2,3-dihydroxy propylsulfinyl) ethylurea | OC(CS(=O)CCNC(=O)N)CO | C6H14N2O4S
